US09029295B2
1-acetoxy-3-(4-methylphenylsulfonyl)acetone (17.5 g, 64.7 mmol) was dissolved in THF (60 ml), and ice-cooled. To the solution was slowly added methylhydrazine (2.98 g, 64.7 mmol) dropwise. After ice-bath was removed, the mixture was stirred at room temperature overnight. To the reaction solution was added triethylamine (10.8 ml, 77.5 mmol), and then a solution of (2,6-diethyl-4-methylphenyl)glyoxyl chloride (15.4 g, 64.7 mmol) in THF. (30 ml) was slowly added. The reaction mixture was stirred at room temperature for 3 hours, then stirred under reflux for 1.5 hours. After the reaction solution was cooled to room temperature, the reaction solution was diluted with water, and extracted with tert-butyl methyl ether. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution, then saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in methanol (70 ml), and ice-cooled. To the solution was added lithium hydroxide monohydrate (8.14 g, 194 mmol), and stirred at 0° C. for 5 hours. To the reaction solution was added 2N hydrochloric acid (150 ml), concentrated under reduced pressure to remove methanol. The residue was extracted with ethyl acetate 2 times. The combined organic layer was washed with saturated aqueous sodium hydrogen carbonate solution, then saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give 2.58 g of 4-(2,6-diethyl-4-methylphenyl)-6-hydroxymethyl-5-(4-methylphenylsulfonyl)-2-methyl-3(2H)-pyridazinone (yield: 9%) as solid.

reactant | 1-acetoxy-3-(4-methylphenylsulfonyl)acetone | 64.7 mmol, 17.5 g | C(C)(=O)OCC(=O)CS(=O)(=O)C1=CC=C(C=C1)C | C12H14O5S
reactant | methylhydrazine | 64.7 mmol, 2.98 g | CNN | CH6N2
reactant | triethylamine | 77.5 mmol, 10.8 ml | C(C)N(CC)CC | C6H15N
reactant | lithium hydroxide monohydrate | 194 mmol, 8.14 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 2N, 150 ml | Cl | ClH
reactant | THF | 60 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-(2,6-diethyl-4-methylphenyl)-6-hydroxymethyl-5-(4-methylphenylsulfonyl)-2-methyl-3(2H)-pyridazinone | 2.58 g, yield: 9% | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1S(=O)(=O)C1=CC=C(C=C1)C)CO)C)=O | C24H28N2O4S
